US06110934
5-Bromo-2,4-dimethoxybenzoic Acid
To a solution of 2,4-dimethoxybenzoic acid (4.0 g, 0.022 mol) in chloroform (60 ml) was added bromine (1.13 ml, 0.022 mol) in chloroform (20 ml) dropwise. After stirring overnight at room temperature the precipithate was filtered off and dried to afford the title compound as a white solid (2.87 g).

reactant | 2,4-dimethoxybenzoic acid | 0.022 mol, 4.0 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | bromine | 0.022 mol, 1.13 ml | BrBr | Br2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-2,4-dimethoxybenzoic Acid | 2.87 g | BrC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9BrO4
